**********************************************************************************************************
* SOLAR MAX. POWER POINT TRACKER MQP
* JOHNATHAN ADAMS, BENJAMIN BEAUREGARD, ANDREW FLYNN
* ADVISOR: PROFESSOR ALEXANDER EMANUEL
* A, B, C TERM 2016-2017
* WORCESTER POLYTECHNIC INSTITUTE
**********************************************************************************************************
* DOCUMENT: MPPT_MODELS.LIB
* DATE CREATED: 11/4/16

* MODEL BY SYMMETRY DESIGN SYSTEMS
.MODEL D1N4004 D
	+IS=5.31656e-08 RS=0.0392384 N=2 EG=0.6
	+XTI=0.05 BV=400 IBV=5e-08 CJO=1e-11
	+VJ=0.7 M=0.5 FC=0.5 TT=1e-09
	+KF=0 AF=1

* MODEL BY SYMMETRY DESIGN SYSTEMS
.MODEL MBR1060 D
	+IS=0.000132385 RS=0.0122186 N=2 EG=0.828762
	+XTI=3.80757 BV=60 IBV=0.0001 CJO=1e-11
	+VJ=0.7 M=0.5 FC=0.5 TT=0
	+KF=0 AF=1

.SUBCKT IRF1310 1 2 3
	*MODEL BY SYMMETRY DESIGN SYSTEMS
	* External Node Designations
	* Node 1 -> Drain
	* Node 2 -> Gate
	* Node 3 -> Source
	M1 9 7 8 8 MM L=100u W=100u
	* Default values used in MM:
	* The voltage-dependent capacitances are
	* not included. Other default values are:
	* RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
	.MODEL MM NMOS LEVEL=1 IS=1e-32	
	+ VTO=3.63122 LAMBDA=0 KP=35.017
	+ CGSO=2.41576e-05 CGDO=2.63501e-07
	RS 8 3 0.0273231
	D1 3 1 MD
	.MODEL MD D IS=1.52845e-09 RS=0.00743652 N=1.2982 BV=100
	+ IBV=0.00025 EG=1 XTI=3.65242 TT=2.00001e-05
	+ CJO=2.72404e-09 VJ=0.800983 M=0.501737 FC=0.1
	RDS 3 1 4e+06
	RD 9 1 0.0001
	RG 2 7 6
	D2 4 5 MD1
	* Default values used in MD1:
	* RS=0 EG=1.11 XTI=3.0 TT=0
	* BV=infinite IBV=1mA
	.MODEL MD1 D IS=1e-32 N=50
	+ CJO=2.2506e-09 VJ=0.5 M=0.793881 FC=1e-08
	D3 0 5 MD2
	* Default values used in MD2:
	* EG=1.11 XTI=3.0 TT=0 CJO=0
	* BV=infinite IBV=1mA
	.MODEL MD2 D IS=1e-10 N=0.412074 RS=3e-06
	RL 5 10 1
	FI2 7 9 VFI2 -1
	VFI2 4 0 0
	EV16 10 0 9 7 1
	CAP 11 10 3.81086e-09
	FI1 7 9 VFI1 -1
	VFI1 11 6 0
	RCAP 6 10 1
	D4 0 6 MD3
	* Default values used in MD3:
	* EG=1.11 XTI=3.0 TT=0 CJO=0
	* RS=0 BV=infinite IBV=1mA
	.MODEL MD3 D IS=1e-10 N=0.412074
.ENDS
* END IRF1310

.SUBCKT DMT6009LCT 1 2 3 
		* MODEL BY DIODES INC.
        * External node designation:
        * Node 1 -> Drain
        * Node 2 -> Gate
        * Node 3 -> Source 
        M1 5 6 7 7 NMOS L = 1E-006 W = 1E-006 
        RD 1 5 0.006099 
        RS 3 7 1E-008 
        RG 2 6 5.71 
        CGS 6 7 2.016E-009 
        EGD 12 0 6 5 1 
        VFB 14 0 0 
        FFB 6 5 VFB 1 
        CGD 13 14 1E-009 
        R1 13 0 1 
        D1 12 13 DLIM 
        DDG 15 14 DCGD 
        R2 12 15 1 
        D2 15 0 DLIM 
        DSD 7 1 DSUB 
        .MODEL NMOS NMOS LEVEL = 3 VMAX = 8E+005 ETA = 0.001 VTO = 2.086 
        + TOX = 6E-008 NSUB = 1E+016 KP = 136.4 U0 = 400 KAPPA = 4.441E-010 
        .MODEL DCGD D CJO = 4.367E-010 VJ = 1 M = 0.5797 
        .MODEL DSUB D IS = 2.239E-010 N = 1.183 RS = 0.005972 BV = 67 CJO = 8.953E-010 VJ = 1 M = 0.201 
        .MODEL DLIM D IS = 0.0001 
.ENDS
* END DMT6009LCT 